US07951810B2
Step c: N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine
A solution of 4-chloro-1H-pyrrolo[2,3-d]pyrimidine (2.10 g, 13.6 mmol), DIPEA (3.57 mL, 20.5 mmol) and (S)-(+)-1-aminoindan (1.93 mL, 15.0 mmol) in 1-butanol (60.0 mL) and was heated to reflux for 60 hours, cooled down to room temperature and concentrated. The residue was purified by flash chromatography (0 to 100% EtOAc/DCM) to afford the title compound (2.72 g, 80%).

reactant | 4-chloro-1H-pyrrolo[2,3-d]pyrimidine | 13.6 mmol, 2.10 g | ClC1=C2C(NC=N1)=NC=C2 | C6H4ClN3
reactant | DIPEA | 20.5 mmol, 3.57 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-(+)-1-aminoindan | 15.0 mmol, 1.93 mL | N[C@H]1CCC2=CC=CC=C12 | C9H11N
solvent | 1-butanol | 60.0 mL | C(CCC)O | C4H10O
product | N-[(1S)-2,3-Dihydro-1H-inden-1-yl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 2.72 g, 80% | [C@@H]1(CCC2=CC=CC=C12)NC=1C2=C(N=CN1)NC=C2 | C15H14N4
